US08389536B2
Step 2: trans-[4-(5-Phenylethynyl-pyrimidin-2-ylamino)-cyclohexyl]-methanol
To a suspension of LiAlH4 (17 mg, 0.44 mmol) in 10 ml THF was added at 0-5° C. within 15 min a solution of trans-4-(5-phenylethynyl-pyrimidin-2-ylamino)-cyclohexanecarboxylic acid methyl ester (40 mg, 0.12 mmol) in 5 ml of THF. The reaction mixture was stirred for 30 min at 0-5° C. Saturated NaHCO3 solution and brine were added to the reaction mixture which was extracted three times with dichloromethane. The combined organic phases were washed with brine, dried over Na2SO4 and filtered. The solvent was removed under reduced pressure and the crude product was purified by flash chromatography on silicagel (heptane:ethyl acetate 2:1). The desired compound was obtained as a light yellow solid (29 mg, 81%), MS: m/e=308.5 (M+H+).

reactant | LiAlH4 | 0.44 mmol, 17 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | trans-4-(5-phenylethynyl-pyrimidin-2-ylamino)-cyclohexanecarboxylic acid methyl ester | 0.12 mmol, 40 mg | COC(=O)[C@@H]1CC[C@H](CC1)NC1=NC=C(C=N1)C#CC1=CC=CC=C1 | C20H21N3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | trans-[4-(5-Phenylethynyl-pyrimidin-2-ylamino)-cyclohexyl]-methanol | C1(=CC=CC=C1)C#CC=1C=NC(=NC1)N[C@@H]1CC[C@H](CC1)CO | C19H21N3O
